US05719141
c) 3-[N-Tert-butoxycarbonyl-4(S)-[3-carboxy-2(S)-methylpropyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide
A solution of 311 mg of 3-[N-tert-butoxycarbonyl-4(S)-[4-hydroxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2-(R)-methyl-propionic acid (N-butyl)amide in a mixture of 4.8 ml of carbon tetrachloride and 4.8 ml of acetonitrile is added to a mixture of 928 mg of sodium metaperiodidate, 19 mg of ruthenium(III) chloride hydrate and 0.6 ml of water while stirring vigorously. After 1 h, the mixture is diluted with 30 ml of methylene chloride and 5 ml of isopropanol, and the aqueous phase is separated off and extracted with methylene chloride. The combined organic phase is concentrated, the residue is taken up in 10 ml of toluene and the mixture is concentrated again. The dark-coloured residue is purified by FC over 25 g of silica gel with a 50:50:1 mixture of hexane, ethyl acetate and glacial acetic acid: Rf (B)=0.18; FAB-MS: (M+H)+ =443.

reactant | 3-[N-tert-butoxycarbonyl-4(S)-[4-hydroxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2-(R)-methyl-propionic acid (N-butyl)amide | 311 mg | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](CCO)C)C)=O | C23H44N2O5
reactant | sodium | 928 mg | [Na] | Na
reactant | water | 0.6 ml | O | H2O
solvent | carbon tetrachloride | 4.8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 4.8 ml | C(C)#N | C2H3N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
catalyst | ruthenium(III) chloride hydrate | 19 mg | O.[Ru](Cl)(Cl)Cl
product | 3-[N-Tert-butoxycarbonyl-4(S)-[3-carboxy-2(S)-methylpropyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](CC(=O)O)C)C)=O | C23H42N2O6
